US04753934
4-Amino-3,5-dibromo-β-(4'-fluorophenyl)-cinnamic acid morpholide
This compound was prepared from 4-amino-3,5-dibromo-β-(4'-fluorophenyl)-cinnamic acid (isomer ratio A:B=2.5:1), ethyl chloroformate, triethylamine and morpholine analogous to Example 1(c).

reactant | 4-amino-3,5-dibromo-β-(4'-fluorophenyl)-cinnamic acid | NC1=C(C=C(C(=CC(=O)O)C2=CC=C(C=C2)F)C=C1Br)Br | C15H10Br2FNO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-3,5-dibromo-β-(4'-fluorophenyl)-cinnamic acid morpholide | NC1=C(C=C(C(=CC(=O)N2CCOCC2)C2=CC=C(C=C2)F)C=C1Br)Br | C19H17Br2FN2O2
